US07560558B2
Compound 275: 6,7-Dimethoxy-4-(quinolin-3-yloxy)-quinoline
4-Chloro-6,7-dimethoxyquinoline (243 mg), 3-hydroxyquinoline (100 mg), and 4-dimethylaminopyridine (348 mg) were dissolved in o-dichlorobenzene (13 ml) to prepare a solution which was stirred at 140° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate, the solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (213 mg, yield 93%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 243 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-hydroxyquinoline | 100 mg | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 348 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 13 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6,7-Dimethoxy-4-(quinolin-3-yloxy)-quinoline | 213 mg, yield 93% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=NC2=CC=CC=C2C1 | C20H16N2O3
